US05981559
Under ice-cooling, ethyl bromoacetate (87 mg, 0.52 mmol) was added dropwise to a mixture of 4-[2-(2-benzothiazolyl)vinyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxybenzanilide (307 mg, 0.52 mmol), potassium carbonate (145 mg, 1.05 mmol) and dimethylformamide (10 ml), and the resulting reaction solution was stirred at room temperature for 12 hours. Water was added to the reaction solution and the product formed was extracted with ethyl acetate. The resulting extract was washed with water and brine in that order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (eluent=hexane:ethyl acetate=4:1) to give ethyl 2-[4-[2-(2-benzothiazolyl)vinyl]benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate (219 mg, 0.32 mmol, 62%) as colorless solid.

reactant | ethyl bromoacetate | 0.52 mmol, 87 mg | BrCC(=O)OCC | C4H7BrO2
reactant | 4-[2-(2-benzothiazolyl)vinyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-hydroxybenzanilide | 0.52 mmol, 307 mg | S1C(=NC2=C1C=CC=C2)C=CC2=CC=C(C(=O)NC1=C(C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)O)C=C2 | C31H25ClN2O4S2
reactant | potassium carbonate | 1.05 mmol, 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 2-[4-[2-(2-benzothiazolyl)vinyl]benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate | 0.32 mmol, 219 mg, 62% | S1C(=NC2=C1C=CC=C2)C=CC2=CC=C(C(=O)NC1=C(OCC(=O)OCC)C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)C=C2 | C35H31ClN2O6S2
